US09216981B2
1M aqueous hydrochloric acid solution was added into the N-(2,4-difluoro-3-(3-(9-(tetrahydro-2H-pyran-2-yl)9H-purin-6-yl)pyridin-2-ylamino)phenyl)cyclopropansulfonamide (20 mg, 0.038 mmol) prepared at Step 10 and stirred for 2 hours. After the reaction, the reactant was washed with an aqueous solution of sodium hydrogen carbonate and salt water. After extraction with ethylacetate, the organic layer was dried with sulfuric anhydride magnesium and vacuum concentrated, and then refined by means of column chromatography, so that 13 mg of the target compound, N-(3-(3-(9H-purin-6-yl)pyridin-2-ylamino)-2,4-difluorophenyl)cyclopropansulfonamide (percentage yield: 79%), was obtained.

reactant | hydrochloric acid | 1M | Cl | ClH
reactant | N-(2,4-difluoro-3-(3-(9-(tetrahydro-2H-pyran-2-yl)9H-purin-6-yl)pyridin-2-ylamino)phenyl)cyclopropansulfonamide | 0.038 mmol, 20 mg | FC1=C(C=CC(=C1NC1=NC=CC=C1C1=C2N=CN(C2=NC=N1)C1OCCCC1)F)NS(=O)(=O)C1CC1 | C24H23F2N7O3S
product | N-(3-(3-(9H-purin-6-yl)pyridin-2-ylamino)-2,4-difluorophenyl)cyclopropansulfonamide | yield: 79% | N1=CN=C2NC=NC2=C1C=1C(=NC=CC1)NC=1C(=C(C=CC1F)NS(=O)(=O)C1CC1)F | C19H15F2N7O2S
